US07691879B2
Step, A. 2-hydroxy-4-methoxybenzoyl chloride
To a solution of 2-hydroxy-4-methoxybenzoic acid (20 g, 118.9 mmol) in 500 mL CH2Cl2 was added thionyl chloride (21.2 g, 178.4 mmol), followed by 0.4 mL DMF. After stirring at rt for 8 h, the reaction mixture was concentrated to a white solid (azeotroped twice from benzene). This material was used as is in the next step.

reactant | 2-hydroxy-4-methoxybenzoic acid | 118.9 mmol, 20 g | OC1=C(C(=O)O)C=CC(=C1)OC | C8H8O4
reactant | thionyl chloride | 178.4 mmol, 21.2 g | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 0.4 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 2-hydroxy-4-methoxybenzoyl chloride | OC1=C(C(=O)Cl)C=CC(=C1)OC | C8H7ClO3
